US07557114B2
(a) 5-(3,3-Difluoro-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(d) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and 3,3-difluoropiperidine hydrochloride. Pink solid. MS (m/e): 339.1 ([M+H]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | 3,3-difluoropiperidine hydrochloride | Cl.FC1(CNCCC1)F
product | 5-(3,3-Difluoro-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CC(CCC1)(F)F | C18H24F2N2O2
